US06211242B1
A solution of N-cyclopentyl-N-(4-nitrobenzoyl)-p-anisidine (1.0 g), 10% palladium on carbon (100 mg) and 2 drops of conc. hydrochloric acid in methanol (10 ml) was stirred under 3 atmospheric pressure of hydrogen at ambient temperature. After 4 hours, the reaction mixture was filtered through a bed of Celite, and concentrated to give N-(4-aminobenzoyl)-N-cyclopentyl-p-anisidine (870 mg), which was used directly for the next step without further purification.

reactant | N-cyclopentyl-N-(4-nitrobenzoyl)-p-anisidine | 1.0 g | C1(CCCC1)N(C1=CC=C(OC)C=C1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O | C19H20N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | N-(4-aminobenzoyl)-N-cyclopentyl-p-anisidine | 870 mg | NC1=CC=C(C(=O)N(C2=CC=C(OC)C=C2)C2CCCC2)C=C1 | C19H22N2O2
